* File: AND6_pseudo.pex.spi.pex
* Created: Tue Apr 22 09:22:13 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND6_PSEUDO_VSS 29 76 83 90 97 104 105 111 112 118 127 131 135 139
+ 220
c0 235 0 0.082669f
c1 213 0 0.0523838f
c2 210 0 0.0523838f
c3 208 0 0.051901f
c4 205 0 0.0281044f
c5 179 0 0.0563083f
c6 178 0 0.0459376f
c7 177 0 0.127613f
c8 175 0 0.0359006f
c9 174 0 0.0203822f
c10 172 0 0.078538f
c11 170 0 0.0391695f
c12 169 0 0.0481071f
c13 167 0 0.114469f
c14 160 0 0.239868f
c15 158 0 0.07513f
c16 155 0 0.12254f
c17 148 0 0.0990323f
c18 143 0 0.127484f
c19 142 0 0.0196599f
c20 139 0 0.141169f
c21 135 0 0.080666f
c22 131 0 0.0779936f
c23 127 0 0.0803123f
c24 121 0 0.438991f
c25 115 0 0.444496f
c26 111 0 0.00464669f
c27 108 0 0.450087f
c28 104 0 0.00909484f
c29 100 0 0.243829f
c30 97 0 0.00846776f
c31 93 0 0.219178f
c32 92 0 0.0103128f
c33 86 0 0.367964f
c34 85 0 0.0132433f
c35 79 0 0.331831f
c36 78 0 0.0096354f
c37 27 0 0.0276029f
c38 25 0 0.0317494f
c39 23 0 0.210504f
c40 21 0 0.0350856f
c41 19 0 0.0318629f
c42 17 0 0.0237058f
c43 15 0 0.0323905f
c44 14 0 0.652941f
r45 193 220 0.00770322
r46 178 179 0.0487391
r47 177 178 8
r48 175 179 0.2496
r49 173 175 0.0487391
r50 173 174 0.0487391
r51 172 173 8
r52 170 174 0.0806
r53 168 170 0.0487391
r54 168 169 0.0487391
r55 167 168 8
r56 159 235 0.0532817
r57 158 160 8.07022
r58 158 159 13.2552
r59 152 155 6.2234
r60 152 177 13.2552
r61 148 150 6.0559
r62 148 172 13.2552
r63 145 167 13.2552
r64 143 145 6.19703
r65 142 160 105
r66 137 142 5.02856
r67 137 139 62.5
r68 133 155 4.73303
r69 133 135 28
r70 129 150 4.85745
r71 129 131 27.75
r72 125 143 4.75236
r73 125 127 27
r74 121 123 0.192
r75 121 205 0.2352
r76 120 123 16.3327
r77 120 121 5.44423
r78 118 120 1.09286
r79 115 117 0.192
r80 115 201 0.2352
r81 114 117 16.3327
r82 114 115 5.44423
r83 112 114 1.09286
r84 111 114 1.09286
r85 108 110 0.192
r86 108 197 0.2352
r87 107 110 16.3327
r88 107 108 5.44423
r89 105 107 1.09286
r90 104 107 1.09286
r91 100 103 0.192
r92 100 193 0.2352
r93 99 103 16.3327
r94 99 100 5.44423
r95 97 99 1.09286
r96 93 95 0.192
r97 93 189 0.2352
r98 92 95 8.16635
r99 92 93 5.44423
r100 90 92 0.85
r101 86 88 0.192
r102 86 185 0.2352
r103 85 88 8.16635
r104 85 86 5.44423
r105 83 85 0.85
r106 79 81 0.192
r107 79 181 0.2352
r108 78 81 8.16635
r109 78 79 5.44423
r110 76 78 0.85
r111 74 205 0.0195555
r112 73 74 16.3327
r113 71 201 0.00770322
r114 70 73 26.4255
r115 70 71 16.3327
r116 66 197 0.00770322
r117 65 66 16.3327
r118 61 65 26.4255
r119 61 220 16.3327
r120 58 189 0.00770322
r121 58 213 0.0296412
r122 57 58 16.3327
r123 52 213 0.241
r124 52 214 0.119
r125 51 52 16.3327
r126 48 185 0.00770322
r127 48 210 0.0296412
r128 48 214 0.0296412
r129 47 48 16.3327
r130 42 210 0.241
r131 42 211 0.119
r132 41 42 16.3327
r133 38 181 0.00770322
r134 38 208 0.0296412
r135 38 211 0.0296412
r136 37 38 16.3327
r137 32 208 0.241
r138 31 32 16.3327
r139 29 70 13.2128
r140 29 65 13.2128
r141 29 57 13.2128
r142 29 51 13.2128
r143 29 47 13.2128
r144 29 41 13.2128
r145 29 37 13.2128
r146 29 31 13.2128
r147 28 123 0.5688
r148 27 32 0.106
r149 26 71 0.0296412
r150 25 74 0.0195555
r151 25 26 0.206
r152 23 28 0.0413287
r153 23 235 0.70913
r154 22 66 0.0296412
r155 21 71 0.0296412
r156 21 22 0.206
r157 20 220 0.0296412
r158 19 66 0.0296412
r159 19 20 0.206
r160 18 58 0.0296412
r161 17 220 0.0296412
r162 17 18 0.084
r163 15 164 0.01612
r164 14 15 8
r165 12 27 0.039111
r166 12 14 0.9782
r167 3 164 0.0255799
r168 3 169 0.2288
.ends

.subckt PM_AND6_PSEUDO_NET5 10 15 24 32
c0 49 0 0.142206f
c1 48 0 0.0805075f
c2 45 0 0.0511435f
c3 40 0 0.0120006f
c4 38 0 0.12051f
c5 36 0 0.0925586f
c6 32 0 0.210742f
c7 28 0 0.0913002f
c8 27 0 0.0587805f
c9 24 0 0.170005f
c10 18 0 0.573128f
c11 15 0 0.0102247f
c12 13 0 0.145659f
c13 7 0 0.0487252f
c14 6 0 0.0575207f
r15 48 49 0.0487391
r16 45 49 0.4329
r17 43 45 0.0487391
r18 42 43 8
r19 36 48 8
r20 35 38 6.2234
r21 35 36 13.2552
r22 30 32 62.5
r23 29 40 0.990414
r24 28 30 5.02856
r25 28 29 25.5
r26 27 38 4.73303
r27 26 40 3.81101
r28 26 27 24.25
r29 22 40 3.81101
r30 22 24 62.5
r31 21 42 0.279
r32 18 21 0.192
r33 17 21 8.16635
r34 17 18 5.44423
r35 15 17 0.85
r36 12 13 16.3327
r37 10 12 3.375
r38 9 42 0.2768
r39 8 13 0.1322
r40 7 8 0.0413287
r41 6 9 0.0413287
r42 6 7 0.103478
.ends

.subckt PM_AND6_PSEUDO_NET3 8 13 22 30
c0 47 0 0.0630463f
c1 46 0 0.0777415f
c2 43 0 0.0551281f
c3 38 0 0.020102f
c4 36 0 0.117324f
c5 34 0 0.0906407f
c6 30 0 0.207322f
c7 26 0 0.0882892f
c8 25 0 0.0596289f
c9 22 0 0.207134f
c10 16 0 0.808468f
c11 13 0 0.00656098f
c12 2 0 0.654864f
r13 46 47 0.0488691
r14 41 43 0.0487391
r15 40 41 8
r16 34 46 8
r17 33 36 6.2234
r18 33 34 13.2552
r19 28 30 62.5
r20 27 38 0.990414
r21 26 28 5.02856
r22 26 27 25.5
r23 25 36 4.73303
r24 24 38 3.81101
r25 24 25 24.25
r26 20 38 3.81101
r27 20 22 62.5
r28 19 40 0.073
r29 16 19 0.192
r30 15 19 8.16635
r31 15 16 5.44423
r32 13 15 0.85
r33 11 40 0.661
r34 10 11 16.3327
r35 8 10 3.375
r36 4 47 0.1937
r37 2 4 0.0363174
r38 2 43 1.3845
.ends

.subckt PM_AND6_PSEUDO_NET1 8 13 22 30
c0 47 0 0.095214f
c1 46 0 0.054583f
c2 43 0 0.0225132f
c3 38 0 0.0201007f
c4 36 0 0.107953f
c5 34 0 0.0675944f
c6 30 0 0.136803f
c7 26 0 0.0814212f
c8 25 0 0.0577477f
c9 22 0 0.198803f
c10 16 0 0.846426f
c11 2 0 0.756072f
r12 46 47 0.0488691
r13 41 43 0.0487391
r14 40 41 8
r15 34 46 8
r16 33 36 6.2234
r17 33 34 13.2552
r18 28 30 62.5
r19 27 38 0.990414
r20 26 28 5.02856
r21 26 27 25.5
r22 25 36 4.73303
r23 24 38 3.81101
r24 24 25 24.25
r25 20 38 3.81101
r26 20 22 62.5
r27 19 40 0.13
r28 16 40 0.062
r29 15 19 8.16635
r30 15 16 5.44423
r31 13 15 0.85
r32 11 19 0.734
r33 10 11 16.3327
r34 8 10 3.375
r35 4 47 0.4459
r36 2 4 0.0363174
r37 2 43 2.2945
.ends

.subckt PM_AND6_PSEUDO_B 4 13
c0 13 0 0.15048f
c1 9 0 0.145623f
c2 4 0 0.338168f
r3 9 13 13.2552
r4 6 9 6.2234
r5 2 6 4.73303
r6 2 4 117
.ends

.subckt PM_AND6_PSEUDO_A 4 12
c0 12 0 0.101294f
c1 7 0 0.101345f
c2 4 0 0.262548f
r3 7 9 8.08937
r4 7 12 13.2552
r5 4 9 80.75
.ends

.subckt PM_AND6_PSEUDO_D 4 13
c0 13 0 0.127636f
c1 9 0 0.124733f
c2 4 0 0.361219f
r3 9 13 13.2552
r4 6 9 6.2234
r5 2 6 4.73303
r6 2 4 117
.ends

.subckt PM_AND6_PSEUDO_C 4 13
c0 13 0 0.0991864f
c1 7 0 0.0850321f
c2 4 0 0.267988f
r3 7 9 8.08937
r4 7 13 13.2552
r5 4 9 80.75
.ends

.subckt PM_AND6_PSEUDO_F 4 14
c0 14 0 0.0994824f
c1 9 0 0.108435f
c2 4 0 0.363653f
r3 9 14 13.2552
r4 6 9 6.2234
r5 2 6 4.73303
r6 2 4 117
.ends

.subckt PM_AND6_PSEUDO_E 4 12
c0 12 0 0.10798f
c1 7 0 0.0913009f
c2 4 0 0.266703f
r3 7 9 8.08937
r4 7 12 13.2552
r5 4 9 80.75
.ends

.subckt PM_AND6_PSEUDO_VDD 9 10 15 20 25 74
c0 67 0 0.0314423f
c1 64 0 0.0826356f
c2 62 0 0.0561185f
c3 28 0 0.239398f
c4 23 0 0.143174f
c5 18 0 0.0991005f
c6 13 0 0.107903f
c7 8 0 0.0651475f
c8 7 0 0.0276029f
c9 6 0 0.0450981f
c10 5 0 0.0611394f
c11 2 0 0.00431425f
r12 74 83 0.00770322
r13 62 74 0.103
r14 61 62 16.3327
r15 55 74 16.3327
r16 52 70 0.103
r17 51 52 16.3327
r18 49 81 0.00770322
r19 49 67 0.0296412
r20 49 70 0.0296412
r21 48 51 13.2128
r22 48 49 16.3327
r23 46 67 0.119
r24 46 68 0.103
r25 45 48 14.7447
r26 45 46 16.3327
r27 41 79 0.00770322
r28 41 68 0.0296412
r29 40 41 16.3327
r30 38 77 0.00770322
r31 38 64 0.0296412
r32 37 40 14.7447
r33 37 38 16.3327
r34 34 64 0.103
r35 33 37 13.2128
r36 33 34 16.3327
r37 31 83 0.135
r38 28 31 0.192
r39 27 31 16.3327
r40 27 28 5.44423
r41 25 27 1.09286
r42 23 81 0.1388
r43 22 23 16.3327
r44 20 22 3.375
r45 18 79 0.1388
r46 17 18 16.3327
r47 15 17 3.375
r48 13 77 0.1388
r49 12 13 16.3327
r50 10 12 3.375
r51 9 61 6.60638
r52 9 55 6.60638
r53 9 45 6.60638
r54 9 40 6.60638
r55 8 52 0.064
r56 6 74 0.0296412
r57 6 7 0.125
r58 5 7 0.039111
r59 4 8 0.039111
r60 4 5 0.214
r61 3 38 0.0296412
r62 2 41 0.0296412
r63 2 3 0.084
.ends

.subckt PM_AND6_PSEUDO_OUT 5 18 25 26 32 33 39 40
c0 43 0 0.441789f
c1 36 0 0.434904f
c2 32 0 0.0110119f
c3 29 0 0.461386f
c4 25 0 0.00967743f
c5 21 0 0.245379f
c6 16 0 0.0225075f
c7 14 0 0.0212106f
c8 10 0 0.187808f
c9 8 0 0.142708f
c10 7 0 0.25756f
c11 3 0 0.0320821f
c12 2 0 0.0966341f
r13 43 45 0.192
r14 42 45 16.3327
r15 42 43 5.44423
r16 40 42 1.09286
r17 39 42 1.09286
r18 36 38 0.192
r19 35 38 16.3327
r20 35 36 5.44423
r21 33 35 1.09286
r22 32 35 1.09286
r23 29 31 0.192
r24 28 31 16.3327
r25 28 29 5.44423
r26 26 28 1.09286
r27 25 28 1.09286
r28 21 23 0.192
r29 20 23 16.3327
r30 20 21 5.44423
r31 18 20 1.09286
r32 17 45 0.1128
r33 15 38 0.1128
r34 15 16 0.000663774
r35 13 31 0.1128
r36 13 14 0.020636
r37 12 21 0.209
r38 11 16 0.0413841
r39 10 17 0.0413287
r40 10 11 0.313478
r41 9 14 0.0165808
r42 8 16 0.0413841
r43 8 9 0.313478
r44 6 14 0.020636
r45 6 7 0.416
r46 3 12 0.0413287
r47 3 5 0.170435
r48 2 7 0.0413287
r49 2 5 0.14
.ends

.subckt PM_AND6_PSEUDO_NET0 1 2
c0 1 0 0.0351004f
r1 1 2 1.7
.ends

.subckt PM_AND6_PSEUDO_NET2 1 2
c0 1 0 0.0414112f
r1 1 2 1.7
.ends

.subckt PM_AND6_PSEUDO_NET4 1 2
c0 1 0 0.0375679f
r1 1 2 1.7
.ends

