* File: A3.pex.spi.pex
* Created: Sat Apr 12 12:16:46 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_A3_A 6 12 23
c0 18 0 0.102801f
c1 16 0 0.118584f
c2 12 0 0.262587f
c3 9 0 0.0193591f
c4 8 0 0.108269f
c5 6 0 0.212436f
c6 3 0 0.0256264f
r7 16 23 0.0229362
r8 15 18 6.2234
r9 15 16 13.2552
r10 10 12 85.5
r11 8 10 5.02856
r12 8 9 34.5
r13 4 18 4.73303
r14 4 6 87.25
r15 3 18 4.73303
r16 2 9 5.02856
r17 2 3 10.75
.ends

.subckt PM_A3_OUT 7 16 23 42
c0 45 0 0.199002f
c1 26 0 0.814221f
c2 19 0 0.338375f
c3 14 0 0.0347387f
c4 11 0 0.0362782f
c5 4 0 0.0825344f
c6 3 0 0.0810697f
r7 44 45 8.16635
r8 42 44 2.295
r9 39 41 0.288
r10 37 39 0.288
r11 35 37 0.288
r12 33 35 0.2878
r13 31 33 0.288
r14 29 31 0.288
r15 26 29 0.288
r16 25 41 5.44423
r17 25 39 5.44423
r18 25 37 5.44423
r19 25 35 5.44423
r20 25 33 5.44423
r21 25 31 5.44423
r22 25 29 5.44423
r23 25 26 5.44423
r24 23 25 0.19125
r25 19 21 0.288
r26 18 21 5.44423
r27 18 19 5.44423
r28 16 18 0.765
r29 15 26 0.2522
r30 13 19 0.2522
r31 13 14 0.0243413
r32 11 45 0.2718
r33 8 11 0.0730435
r34 5 14 0.0125605
r35 5 7 0.0547826
r36 4 15 0.0413287
r37 4 7 0.103478
r38 3 14 0.0243413
r39 2 8 0.00411102
r40 2 3 0.258696
.ends

.subckt PM_A3_B 4 8 16
c0 16 0 0.0890059f
c1 11 0 0.0895746f
c2 8 0 0.893086f
c3 4 0 0.254827f
r4 11 14 8.05107
r5 11 13 8.08937
r6 11 16 13.2552
r7 8 14 348.75
r8 4 13 68.75
.ends

.subckt PM_A3_C 4 8 16
c0 16 0 0.095323f
c1 13 0 0.987541f
c2 10 0 0.0937955f
c3 4 0 0.352668f
r4 10 13 8.05107
r5 10 12 8.08937
r6 10 16 13.2552
r7 8 13 312.25
r8 4 12 105.25
.ends

.subckt PM_A3_D 4 8 16
c0 16 0 0.0961207f
c1 13 0 0.987567f
c2 10 0 0.0950309f
c3 4 0 0.346735f
r4 10 13 8.05107
r5 10 12 8.08937
r6 10 16 13.2552
r7 8 13 312.25
r8 4 12 105.25
.ends

.subckt PM_A3_VSS 2 22 23 27 28 48
c0 41 0 0.0409261f
c1 38 0 0.0893485f
c2 31 0 0.241616f
c3 26 0 0.2417f
c4 20 0 0.033192f
r5 42 48 0.0296412
r6 38 48 0.0296412
r7 32 48 0.00770322
r8 31 35 0.1192
r9 30 31 8.16635
r10 28 30 2.295
r11 27 30 2.295
r12 26 32 0.1192
r13 25 26 8.16635
r14 23 25 2.295
r15 22 25 2.295
r16 20 44 0.103
r17 19 20 16.3327
r18 17 35 0.00770322
r19 17 41 0.0296412
r20 17 44 0.0296412
r21 16 19 13.2128
r22 16 17 16.3327
r23 14 41 0.103
r24 14 42 0.103
r25 13 16 13.2128
r26 13 14 16.3327
r27 8 48 16.3327
r28 5 38 0.241
r29 4 8 26.4255
r30 4 5 8.16635
r31 2 13 6.60638
r32 2 8 6.60638
.ends

.subckt PM_A3_E 4 8 18
c0 18 0 0.09099f
c1 13 0 0.111261f
c2 8 0 0.783061f
c3 4 0 0.291521f
r4 13 18 13.2552
r5 10 13 6.2234
r6 6 10 4.73303
r7 6 8 319
r8 2 10 4.73303
r9 2 4 98.5
.ends

.subckt PM_A3_noxref_8 10 11 15 16 20
c0 23 0 0.13743f
c1 19 0 0.222907f
c2 14 0 0.239401f
c3 8 0 0.0142635f
c4 4 0 0.156196f
c5 3 0 0.0499038f
c6 2 0 0.139838f
r7 22 23 8.16635
r8 20 22 2.295
r9 18 19 8.16635
r10 16 18 2.295
r11 15 18 2.295
r12 13 14 8.16635
r13 11 13 2.295
r14 10 13 2.295
r15 9 23 0.2008
r16 7 19 0.2008
r17 7 8 0.000663774
r18 6 14 0.2008
r19 5 8 0.0413841
r20 4 9 0.0413287
r21 4 5 0.313478
r22 3 6 0.0413287
r23 2 8 0.0413841
r24 2 3 0.313478
.ends

.subckt PM_A3_VDD 6 7 8 15
c0 62 0 0.0281044f
c1 60 0 0.0741428f
c2 54 0 0.0645103f
c3 18 0 0.347131f
c4 11 0 0.341018f
c5 3 0 0.982993f
r6 52 62 0.0195555
r7 52 54 0.0195555
r8 51 52 16.3327
r9 49 54 0.103
r10 48 51 13.2128
r11 48 49 16.3327
r12 43 49 0.276
r13 42 43 5.44423
r14 36 60 0.138
r15 36 58 0.00411102
r16 35 36 8.16635
r17 32 62 0.303
r18 30 32 0.288
r19 28 30 0.288
r20 26 28 0.288
r21 24 26 0.2878
r22 22 24 0.288
r23 20 22 0.288
r24 18 20 0.288
r25 17 32 5.44423
r26 17 30 5.44423
r27 17 28 5.44423
r28 17 26 5.44423
r29 17 24 5.44423
r30 17 22 5.44423
r31 17 20 5.44423
r32 17 18 5.44423
r33 15 17 0.19125
r34 14 58 0.2148
r35 11 14 0.288
r36 10 14 5.44423
r37 10 11 5.44423
r38 8 10 0.765
r39 7 48 13.2128
r40 7 42 13.2128
r41 7 35 6.60638
r42 4 43 0.277
r43 4 6 0.0195555
r44 3 6 0.0195555
r45 2 60 0.00411102
r46 2 3 1.746
.ends

.subckt PM_A3_noxref_10 1 2
r0 1 2 0.3825
.ends

.subckt PM_A3_noxref_11 1 2
r0 1 2 0.3825
.ends

.subckt PM_A3_noxref_12 1 2
r0 1 2 0.3825
.ends

